US09062048B2
A 250 mL round bottom flask was charge with tert-butyl (3-hydroxy-1-(1,4-dioxaspiro[4.5]decan-8-yl)propyl)carbamate (2.11 g, 6.69 mmol) and tetrahydrofuran (134 mL). The mixture was cooled to 0° C. and potassium tert-butoxide (900 mg, 8.03 mmol) was added. The mixture was stirred at 0° C. for 2 h. The mixture was diluted with ethyl acetate and washed with saturated aqueous ammonium chloride. Dry organic layer with MgSO4, filter, and concentrate in vacuo to give 4-(1,4-dioxaspiro[4.5]decan-8-yl)-1,3-oxazinan-2-one (1.39 g, 5.76 mmol) as a clear oil.

reactant | tert-butyl (3-hydroxy-1-(1,4-dioxaspiro[4.5]decan-8-yl)propyl)carbamate | 6.69 mmol, 2.11 g | OCCC(C1CCC2(OCCO2)CC1)NC(OC(C)(C)C)=O | C16H29NO5
reactant | tetrahydrofuran | 134 mL | O1CCCC1 | C4H8O
reactant | potassium tert-butoxide | 8.03 mmol, 900 mg | CC(C)([O-])C.[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(1,4-dioxaspiro[4.5]decan-8-yl)-1,3-oxazinan-2-one | 5.76 mmol, 1.39 g | O1CCOC12CCC(CC2)C2NC(OCC2)=O | C12H19NO4
